US05053408
A mixture of 6.43 g (50.0 mmols) of 3-amino-2-chloropyridine, 50 ml of carbon disulfide and 50 ml of DMF was heated under reflux for 6 days. An excess of carbon disulfide was evaporated under reduced pressure, and the residue was poured into 300 ml of ice water with stirring. The precipitated crystals was taken out by filtration and dried to afford 7.57 g (yield: 90%) of pyrido[3,2-d]thiazo-line-2-thione.

reactant | 3-amino-2-chloropyridine | 50.0 mmols, 6.43 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | carbon disulfide | 50 ml | C(=S)=S | CS2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | pyrido[3,2-d]thiazo-line-2-thione | 7.57 g, yield: 90% | N1C(SC2=C1C=CC=N2)=S | C6H4N2S2
